### PR TITLE
feat(ClassicalMechanics): quality factor and relaxation time of the damped harmonic oscillator

### PR DESCRIPTION
**Pull request by KevorkianPhilippe**
Resolves the two TODOs of `ClassicalMechanics/DampedHarmonicOscillator/Basic.lean` on the quality factor `Q` and the relaxation time `τ`.

**New definitions** (section D.2 of `Basic.lean`), both built from the decay rate `β = γ / (2 m)`:
- `qualityFactor` : `Q = ω / (2 β)`, with `qualityFactor_eq_m_mul_ω_div_γ` (`Q = m ω / γ`), `qualityFactor_eq_sqrt_div` (`Q = √(m k) / γ`), `qualityFactor_sq`, `qualityFactor_pos`.
- `relaxationTime` : `τ = 1 / β`, with `relaxationTime_eq` (`τ = 2 m / γ`), `relaxationTime_pos`, `decayRate_mul_relaxationTime` (`β τ = 1`), `qualityFactor_eq_ω_mul_relaxationTime` (`Q = ω τ / 2`).

**Damping regimes in terms of `Q`** (for `0 < γ`): `isUnderdamped_iff_half_lt_qualityFactor` (`1/2 < Q`), `isCriticallyDamped_iff_qualityFactor_eq_half` (`Q = 1/2`), `isOverdamped_iff_qualityFactor_lt_half` (`Q < 1/2`), `discriminant_eq_mul_qualityFactor` (`γ² - 4 m k = 4 m k (1/(4 Q²) - 1)`), and `angularFrequency_sq_eq_mul_qualityFactor` (`ω_d² = ω² (1 - 1/(4 Q²))` in the underdamped regime).

**Supporting lemmas** placed next to the objects they describe (section D.1): `decayRate_pos`, and the three characterisations `isUnderdamped_iff_decayRate_lt` (`β < ω`), `isCriticallyDamped_iff_eq_decayRate` (`ω = β`), `isOverdamped_iff_lt_decayRate` (`ω < β`), which upgrade the existing one-directional lemmas to equivalences.

**Solutions** (`Solution.lean`): `exp_neg_decayRate_mul` (`exp (-β t) = exp (-t / τ)`, in `Basic.lean`) and `trajectory_eq_of_underdamped_relaxationTime`, the underdamped solution written with `exp (-t / τ)`.

Conventions: `Q = ω / (2 β)` is the usual ratio of the natural angular frequency to the resonance width `γ / m`; `τ` is the relaxation time of the amplitude (the energy relaxes in `τ / 2`, not stated here). For `γ = 0` both values are `0` by Lean's `x / 0 = 0` convention; the docstrings say so and the lemmas that depend on it assume `0 < γ`.

Checks: `lake build`, `lint-style.sh`, `runPhyslibLinters`, codespell; standard axioms only.

**AI disclosure.** The statements were frozen first (with `sorry`) and their proofs were produced by Kimi K2.7 Code (Moonshot AI) running in the DeepSeek Harness against physlib, then rewritten and shortened by Claude Fable 5.1 (Claude Code) for the physlib style, with the three regime characterisations added at that stage; a type-identity check between the frozen statements and the final lemmas was compiled. I reviewed the statements, the docstrings and the proofs.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 1]
```diff
@@ -391,6 +403,136 @@ lemma angularFrequency_ne_zero_of_overdamped (hS : S.IsOverdamped) :
...
+noncomputable def qualityFactor : ℝ := S.ω / (2 * S.decayRate)
+
+/-- The relaxation time `τ = 1 / β` of the amplitude, equal to `2 m / γ`; the exponential
+factor of the solutions is `exp (-t / τ)` (see `exp_neg_decayRate_mul`).
+
+When `γ = 0` the value is `0` by the convention `0⁻¹ = 0`. -/
+noncomputable def relaxationTime : ℝ := S.decayRate⁻¹
+
+/-- The quality factor equals `m ω / γ`. -/
+lemma qualityFactor_eq_m_mul_ω_div : S.qualityFactor = S.m * S.ω / S.γ := by
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
lemma qualityFactor_eq_m_mul_ω_div_γ : S.qualityFactor = S.m * S.ω / S.γ := by
```

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 2]
```diff
@@ -391,6 +403,136 @@ lemma angularFrequency_ne_zero_of_overdamped (hS : S.IsOverdamped) :
...
+  rw [S.qualityFactor_eq_m_mul_ω_div]
+  exact div_pos (mul_pos S.m_pos S.ω_pos) hγ
+
+/-- The square of the quality factor equals `m k / γ ^ 2`. -/
+lemma qualityFactor_sq : S.qualityFactor ^ 2 = S.m * S.k / S.γ ^ 2 := by
+  rw [S.qualityFactor_eq_sqrt_div, div_pow, Real.sq_sqrt (mul_nonneg S.m_pos.le S.k_pos.le)]
+
+/-- The discriminant in terms of the quality factor: `γ ^ 2 - 4 m k = 4 m k (1 / (4 Q ^ 2) - 1)`;
+for `γ = 0` both sides equal `-4 m k`. -/
+lemma discriminant_eq_qualityFactor :
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
lemma discriminant_eq_mul_qualityFactor :
```

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 3]
```diff
@@ -391,6 +403,136 @@ lemma angularFrequency_ne_zero_of_overdamped (hS : S.IsOverdamped) :
...
+    S.discriminant = 4 * S.m * S.k * (1 / (4 * S.qualityFactor ^ 2) - 1) := by
+  rw [S.qualityFactor_sq, discriminant]
+  rcases eq_or_ne S.γ 0 with h | h
+  · simp [h]
+  · field_simp [h, S.m_ne_zero, S.k_ne_zero]
+
+/-- The underdamped regime is characterised by `1 / 2 < Q` when `0 < γ`. -/
+lemma isUnderdamped_iff_qualityFactor (hγ : 0 < S.γ) :
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
lemma isUnderdamped_iff_half_lt_qualityFactor (hγ : 0 < S.γ) :
```

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 4]
```diff
@@ -391,6 +403,136 @@ lemma angularFrequency_ne_zero_of_overdamped (hS : S.IsOverdamped) :
...
+    S.IsUnderdamped ↔ 1 / 2 < S.qualityFactor := by
+  have hβ := S.decayRate_pos hγ
+  rw [S.isUnderdamped_iff_decayRate_lt, qualityFactor, lt_div_iff₀ (by linarith)]
+  constructor <;> intro h <;> linarith
+
+/-- The critically damped regime is characterised by `Q = 1 / 2` when `0 < γ`. -/
+lemma isCriticallyDamped_iff_qualityFactor (hγ : 0 < S.γ) :
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
lemma isCriticallyDamped_iff_qualityFactor_eq_half (hγ : 0 < S.γ) :
```

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 5]
```diff
@@ -391,6 +403,136 @@ lemma angularFrequency_ne_zero_of_overdamped (hS : S.IsOverdamped) :
...
+    S.IsCriticallyDamped ↔ S.qualityFactor = 1 / 2 := by
+  have hβ := S.decayRate_pos hγ
+  rw [S.isCriticallyDamped_iff_eq_decayRate, qualityFactor, div_eq_iff (by linarith)]
+  constructor <;> intro h <;> linarith
+
+/-- The overdamped regime is characterised by `Q < 1 / 2` when `0 < γ`. -/
+lemma isOverdamped_iff_qualityFactor (hγ : 0 < S.γ) :
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
lemma isOverdamped_iff_qualityFactor_lt_half (hγ : 0 < S.γ) :
```

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 6]
```diff
@@ -391,6 +403,136 @@ lemma angularFrequency_ne_zero_of_overdamped (hS : S.IsOverdamped) :
...
+    S.IsOverdamped ↔ S.qualityFactor < 1 / 2 := by
+  have hβ := S.decayRate_pos hγ
+  rw [S.isOverdamped_iff_lt_decayRate, qualityFactor, div_lt_iff₀ (by linarith)]
+  constructor <;> intro h <;> linarith
+
+/-- In the underdamped regime the selected angular frequency satisfies
+`ω_d ^ 2 = ω ^ 2 (1 - 1 / (4 Q ^ 2))` when `0 < γ`. -/
+lemma angularFrequency_sq_eq_qualityFactor (hγ : 0 < S.γ) (hS : S.IsUnderdamped) :
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]:
```suggestion
lemma angularFrequency_sq_eq_mul_qualityFactor (hγ : 0 < S.γ) (hS : S.IsUnderdamped) :
```

**Review by morrison-daniel — APPROVED** [review]
Looks good
